US06020078
A mixture of 40 g of 3,5-di(t-butyl)-2-mercaptoaniline [prepared according to a literature procedure from 3,5-di(t-butyl)benzoic acid] and 75 mL of ethyl 3-(trimethoxy)propionate in 1.2 L of methanol containing 1.5 g of p-toluenesulfonic acid was stirred at r.t. for 18 h. Excess methanol was removed by rotary evaporation. The precipitated the solid was filtered and washed with cold methanol. The crude product was purified by flash chromatography on silica gel and eluted with heptane to give 20 g of ethyl 2-[5,7-di(t-butyl)benzothiazolyl]acetate. The latter was refluxed with 16 g of 1,1,7,7-tetramethyl-8-hydroxy-9-formyljulolidine in 200 mL of acetonitrile containing 4 mL of piperidine for 18 h. The reaction mixture was cooled and the precipitated bright orange solid was filtered to give 13 g of the desired dye C-545TB: m.p. 275-276° C.; Tg=140° C.

reactant | 3,5-di(t-butyl)-2-mercaptoaniline | 40 g | C(C)(C)(C)C=1C(=C(N)C=C(C1)C(C)(C)C)S | C14H23NS
reactant | 3,5-di(t-butyl)benzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C15H22O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 1.2 L, 1.5 g | CO | CH4O
product | ethyl 2-[5,7-di(t-butyl)benzothiazolyl]acetate | 20 g | C(C)(C)(C)C=1C=C(C2=C(N=C(S2)CC(=O)OCC)C1)C(C)(C)C | C19H27NO2S
